US06476067B1
Diethyl benzylmalonate (100 g, 400 mmol) was dissolved in ethanol (300 mL) and treated with a solution of potassium hydroxide (134.4 g, 2.4 mol) in water (500 mL). The mixture was heated under reflux for 5 hours and then allowed to cool. Ethanol was removed under reduced pressure and the remaining aqueous solution cooled in ice and acidified to pH1 with concentrated HCl. The product was extracted with ethyl acetate (3×200 mL). The combined extracts were washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to yield benzylmalonic acid as a white crystalline solid. The solid was taken-up in ethanol (250 mL) and treated portionwise with piperidine (33 g, 397 mmol) followed by an aqueous solution of formaldehyde (37%, 150 mL) which resulted in formation of a white precipitate. The reaction mixture was heated and treated with methanol (50 mL) to give a homogeneous solution. Following dissolution the reaction mixture was heated under reflux for 4 hours. The reaction mixture was concentrated under reduced pressure. The aqueous residue was acidified to pH1 with 1 M HCl and the product extracted with ethyl acetate (3×150 mL). The combined extracts were washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to yield 2-benzyl-acrylic acid as a colourless oil which crystallized on standing (45 g, 75%). 1H-NMR; δ (CDCl3), 7.32-7.17 (5H, m), 6.36 (1H, s), 5.54 (1H, d, J=1.3 Hz), 3.61 (2H, s).

reactant | Diethyl benzylmalonate | 400 mmol, 100 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | potassium hydroxide | 2.4 mol, 134.4 g | [OH-].[K+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | benzylmalonic acid | C(C1=CC=CC=C1)C(C(=O)O)C(=O)O | C10H10O4
